US07071197B2
Benzyl Cyclohexyl Ketone (Compound 5a)
To a solution of 11 ml of 0.5 M solution of benzyl zinc bromide in anhydrous tetrahydrofuran were added at 0° C. 5 mg of bis-triphenylphospinepalladium dichloride and 0.66 ml of cyclohexanecarbonyl chloride. The mixture was stirred at r.t. for 1.5 h, quenched with a saturated solution of ammonium chloride and extracted with ethyl acetate. The collected organic layers were washed with water, dried (Na2SO4) and the solvent was evaporated under vacuum. The crude was purified by flash chromatography eluting with petroleum ether-EtOAc 95:5 to give 0.78 g (52%) of the title compound.

reactant | benzyl zinc bromide | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | cyclohexanecarbonyl chloride | 0.66 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Benzyl Cyclohexyl Ketone | 0.78 g, 52% | C1(CCCCC1)C(=O)CC1=CC=CC=C1 | C14H18O
